Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
left hand/arm full thickness and partial thickness abrasion
 
Major Surgical or Invasive Procedure:
1. Debridement of soft tissue left forearm and hand.
2. Subtotal amputation of left ___ digit with local flap closure
3. Complex closure of laceration of left index, long and ring 
digits.
5. Application of VAC dressing
6. Skin graft

 
History of Present Illness:
___ M transfer from OSH s/p rollover MVC with extensive soft 
tissue loss over L arm.  Pt does not recall what happened.  He 
only remembers having "a few beers" but does not remember how he 
injured his arm.  He denies head/neck/back pain, CP, SOB, abd 
pain, n/v. Got clinda and tetanus at ___ ___)

 
Past Medical History:
s/p gastric bypass for obesity
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On presentation: 
AFVSS
Somnolent on exam - s/p dilaudid administration
Head is AT/NC
MSK:
Cervical Spine: non-tender
Pelvis: Stable to AP/Lateral Compression
LUE:Full, supple, painless ROM of shoulder, elbow. 
Pain with motion of wrist
Compartments soft. Extensive soft tissue loss over dorsal/radial 
aspect of forearm and hand and fingers. Forearm with only 
superficial epidermal loss.  Full thickness soft tissue loss 
with exposed muscle over dorsal first web space. 
Superficial/partial thickness skin loss of soft tissue along 
index and long fingers dorsal/radial, and more significant/full 
thickness soft tissue 
loss over ring and small fingers with apparent loss of middle 
and distal phalanx of the small finger. Unable to assess 
sensation in the hand/fingers due to mental status.  Unable to 
follow instructions to move fingers. All fingers appear well 
perfused. 

 
Pertinent Results:
___ 05:50AM   WBC-16.8* RBC-4.31* HGB-13.4* HCT-38.7* 
MCV-90 MCH-31.1 MCHC-34.6 RDW-14.0
___ 05:50AM   GLUCOSE-118* UREA N-13 CREAT-1.0 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-101 TOTAL CO2-26 ANION GAP-14
 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ with extensive soft tissue injury on his left hand and 
forearm.  The patient is taken to the OR for debridement and VAC 
placement on the day he presented and he was taken to the OR on 
___ for skin grafting.  The patient tolerated both procedures 
well.

Neuro: Post-operatively for both procedures, the patient 
received Dilaudid IV/PCA with good effect and adequate pain 
control. When tolerating oral intake, the patient was 
transitioned to oral pain medications. 

CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.  

Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 
GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. His diet was advanced when appropriate, 
which was tolerated well. He was also started on a bowel regimen 
to encourage bowel movement. Intake and output were closely 
monitored. 

ID: Post-operatively, the patient was started on IV 
cipro/clinda. The patient's temperature was closely watched for 
signs of infection. 

Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs, tolerating a regular diet, ambulating, 
voiding without assistance, and pain was well controlled. 

 
Medications on Admission:
None
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
full thickness and partial thickness left hand/arm abrasions

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Followup Instructions:
___